US04166184
4-(4-Benzamidobutyl)-5-methylimidazole is hydrolysed by heating with 6 N Hydrochloride Acid to give 4-(4-aminobutyl)-5-methylimidazole which may be converted into N-methyl-N'-[4-(5-methyl-4-imidazolyl)butyl]thiourea by the procedure of Example 7 (ii).

reactant | 4-(4-Benzamidobutyl)-5-methylimidazole | C(C1=CC=CC=C1)(=O)NCCCCC=1N=CNC1C | C15H19N3O
reactant | Hydrochloride | 6 N | Cl | ClH
product | 4-(4-aminobutyl)-5-methylimidazole | NCCCCC=1N=CNC1C | C8H15N3
